US04352805
A solution of 5.00 g. of 3-(3,4-dimethoxyphenyl)-1-propanol, 9.76 ml of bromoacetaldehyde diethyl acetal, 2.0 ml of trifluoroacetic acid, and 125 ml of nitromethane is heated at 65° under a nitrogen atmosphere for 2 hours. After cooling, the reaction mixture is extracted with methylene chloride and aqueous sodium bicarbonate. The organic layer is taken to dryness in vacuo and the residue is chromatographed first with 100% CH2Cl2 and a second time with 10% ethyl acetate:SSB to give 300 g of 7,8-dimethoxy-1-bromomethyl-1,3,4,5-tetrahydro-2-benzoxepin, m.p., 44°-45°.

reactant | 3-(3,4-dimethoxyphenyl)-1-propanol | COC=1C=C(C=CC1OC)CCCO | C11H16O3
reactant | bromoacetaldehyde diethyl acetal | 9.76 ml | C(C)OC(CBr)OCC | C6H13BrO2
reactant | trifluoroacetic acid | 2.0 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | nitromethane | 125 ml | [N+](=O)([O-])C | CH3NO2
product | 7,8-dimethoxy-1-bromomethyl-1,3,4,5-tetrahydro-2-benzoxepin | 300 g | COC=1C(=CC2=C(CCCOC2CBr)C1)OC | C13H17BrO3
